US07179632B2
1 gram of Allicin as prepared above (in Example 4) was dissolved in 10 ml of 40% water-acetone solution and the solution was heated between 63–64 C for 4 hours. The reaction mixture was diluted with 30 ml of 50% water-methanol and washed 5 times with 10 ml of n-pentane. The pentane was kept aside for further processing. The lower water-acetone-methanolic layer was then saturated with ammonium sulphate and extracted with 20 ml dichloromethane. The dichloromethane layer was separated, dried with Magnesium Sulphate, filtered and evaporated to yield crude Ajoene.

reactant | Allicin | 1 gram | C=CCS(SCC=C)=O | C6H10OS2
reactant | water methanol | 30 ml | O.CO
solvent | water acetone | 10 ml | O.CC(=O)C
product | Ajoene | C=CCSS/C=C/C[S+](CC=C)[O-] | C9H14OS3
